US07081456B2
Preparation of N-[3-(dimethylamino)propyl]-4-(6-fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzamide
4-(6-Fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzoic acid (41 mg, 0.12 mmol) was dissolved in anhydrous dimethyl-acetamide(1 ml). Diisopropyl-ethyl amine (46 mg, 0.36 mmol, 62 μl) was added followed by [(benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium hexafluoro phosphate (65 mg, 0.17 mmol) and 3-dimethylaminopropylamine (12 mg, 0.12 mmol). The mixture was stirred at room temperature overnight and purified by preparative HPLC. The title compound was isolated as a brown solid. LCMS: m/z 425 [M+H]+.

reactant | 4-(6-Fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzoic acid | 0.12 mmol, 41 mg | FC1=CC=CC2=C1SC=C1C2=NN(C1=O)C1=CC=C(C(=O)O)C=C1 | C17H9FN2O3S
reactant | Diisopropyl-ethyl amine | 0.36 mmol, 62 μl, 46 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [(benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium hexafluoro phosphate | 0.17 mmol, 65 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | 3-dimethylaminopropylamine | 0.12 mmol, 12 mg | CN(CCCN)C | C5H14N2
solvent | dimethyl-acetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | N-[3-(dimethylamino)propyl]-4-(6-fluoro-3-oxothiochromeno[4,3-c]pyrazol-2(3H)-yl)benzamide | CN(CCCNC(C1=CC=C(C=C1)N1N=C2C(C1=O)=CSC=1C(=CC=CC12)F)=O)C | C22H21FN4O2S
